* A dual opamp ngspice model
.subckt OPA1612 OUT1 IN1- IN1+ VEE IN2+ IN2- OUT2 VCC 
.include OPA161x.LIB
XU1A IN1+ IN1- VCC VEE OUT1 OPA161x
XU1B IN2+ IN2- VCC VEE OUT2 OPA161x
.ends
